US07160882B2
a) 1-(2-nitro-phenyl)-cyclohexanol
40.16 mL (80.32 mmol) phenylmagnesium chloride (2 M in THF) are added dropwise at −50° C. to a solution of 20.0 g (80.32 mmol) 2-nitro-iodobenzene in abs. THF (150 mL) under a nitrogen atmosphere. After stirring for 15 min. 9.98 mL (96.30 mmol) cyclohexanone are added quickly. The mixture is heated to RT and stirred for a further 2 h. Sat. aqueous ammonium chloride solution is added and the aqueous phase is exhaustively extracted with EtOAc. The combined org. extracts are washed with sat. aqueous NaCl solution, dried with sodium sulphate and evaporated down in vacuo. After column chromatography (silica gel, hexane/EtOAc 20:1) the product is obtained as a brownish oil. Yield: 5.20 g (29%); Rf=0.26 (silica gel, hexane/EtOAc 10:1); ESI-MS: [M+H—H2O]+=204.

reactant | phenylmagnesium chloride | 80.32 mmol, 2 M, 40.16 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | 2-nitro-iodobenzene | 80.32 mmol, 20.0 g | [N+](=O)([O-])C1=C(C=CC=C1)I | C6H4INO2
reactant | cyclohexanone | 96.30 mmol, 9.98 mL | C1(CCCCC1)=O | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 1-(2-nitro-phenyl)-cyclohexanol | [N+](=O)([O-])C1=C(C=CC=C1)C1(CCCCC1)O | C12H15NO3
